US06492383B1
(1H-Indol-5-yl)-(2-pyridin-2-yl-thieno[3,2-b]pyridin-7-yl)-amine
In a sealed tube (2-bromo-thieno[3,2-b]pyridin-7-yl)-(1H-indol-5-yl)-amine (150 mg, 0.29 mmol) and 2-(tributylstannyl)pyridine (118 mg, 1.1 mmol) were combined in 3 mL of dimethylformamide along with copper iodide (3 mg, 0.015 mmol). Nitrogen was bubbled through the solution and trans-benzyl(chloro)bis-(triphenylphosphine)palladium(II) (33 mg, 0.044 mmol) was added, the tube was sealed and heated to 90° C. After 14 hours the solution was cooled and concentrated to dryness. Chromatography on 15 g of silica gel with CH2Cl2/MeOH (5-20%) afforded 30.3 mg (28%) of,the title compound. LC-MS: 343 (MH+); HPLC RT: 3.94 minutes.

reactant | (2-bromo-thieno[3,2-b]pyridin-7-yl)-(1H-indol-5-yl)-amine | 0.29 mmol, 150 mg | BrC1=CC2=NC=CC(=C2S1)NC=1C=C2C=CNC2=CC1 | C15H10BrN3S
reactant | 2-(tributylstannyl)pyridine | 1.1 mmol, 118 mg | C(CCC)[Sn](C1=NC=CC=C1)(CCCC)CCCC
solvent | dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
catalyst | copper iodide | 0.015 mmol, 3 mg | [Cu](I)I
catalyst | trans-benzyl(chloro)bis-(triphenylphosphine)palladium(II) | 0.044 mmol, 33 mg | [CH2-]C1=CC=CC=C1.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd+]
product | (1H-Indol-5-yl)-(2-pyridin-2-yl-thieno[3,2-b]pyridin-7-yl)-amine | 30.3 mg, 28% | N1C=CC2=CC(=CC=C12)NC1=C2C(=NC=C1)C=C(S2)C2=NC=CC=C2 | C20H14N4S
